US09056852B2
The crude ethyl-3-(3-methoxyphenyl)-2,2-dimethylpropanoate (1.00 g, 4.23 mmol) was taken up in a solution of ethanol (50 mL) and sodium hydroxide (2 N, 10 mL). The reaction mixture was refluxed overnight and then concentrated under vacuum. The concentrated aqueous solution was acidified with hydrochloric acid (2 N) to pH 3-4 and extracted with ethyl acetate. The combined organic fractions were dried over sodium sulfate and evaporated to yield 3-(3-methoxyphenyl)-2,2-dimethylpropanoic acid (600 mg) as a brown oil, which was used directly in the next step. MS m/z: 207 (M−1).

reactant | ethyl-3-(3-methoxyphenyl)-2,2-dimethylpropanoate | 4.23 mmol, 1.00 g | C(C)OC(C(CC1=CC(=CC=C1)OC)(C)C)=O | C14H20O3
reactant | sodium hydroxide | 2 N, 10 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(3-methoxyphenyl)-2,2-dimethylpropanoic acid | 600 mg | COC=1C=C(C=CC1)CC(C(=O)O)(C)C | C12H16O3
